US06340749B1
Synthesis of 2-Cyanoethoxy(4,5-dichloroimidazolyl)pyrrolidinophosphine (8)
To a stirred solution of 4,5-dichloroimidazole (1.59 g, 11.63 mmol) and triethylamine (1.95 mL, 1.41 g, 13.96 mmol) in CH2Cl2 (30 mL) was added dropwise Chloro(2-Cyanoethoxy) pyrrolidinophosphine (2.40 g, 11.63 mmol) in CH2Cl2 (10 mL) at room temperature. The mixture was stirred for 4 h at room temperature. The reaction mixture was filtered to remove the resulting salt, and the solvent was removed under reduced pressure to give the crude product as a pale yellow oil (2.93 g, 82%). 31P NMR (CDCl3) δ 123.2.

reactant | 4,5-dichloroimidazole | 11.63 mmol, 1.59 g | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | triethylamine | 13.96 mmol, 1.95 mL, 1.41 g | C(C)N(CC)CC | C6H15N
reactant | Chloro(2-Cyanoethoxy) pyrrolidinophosphine | 11.63 mmol, 2.40 g | ClP(N1CCCC1)OCCC#N | C7H12ClN2OP
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-Cyanoethoxy(4,5-dichloroimidazolyl)pyrrolidinophosphine | 2.93 g, 82% | C(#N)CCOP(N1CCCC1)C=1NC(=C(N1)Cl)Cl | C10H13Cl2N4OP
